US07589206B2
a) 2-Methoxycarbonylmethyl-1-methyl-1H-pyrrole-3-carboxylic acid methyl ester
2-Carboxymethyl-1-methyl-1H-pyrrole-3-carboxylic acid (17.67 g) prepared as described by Bottaccio, Giorgio; Campolmi, Stefano; Carletti, Vittorio; Marchi, Marcello. EP105664, para-toluenesulfonic acid (9.17 g) and methanol (250 ml) were refluxed under argon for 48 hours. The solvent was evaporated and the residue washed with ethanol to yield the title compound as a white solid (15.75 g)

reactant | 2-Carboxymethyl-1-methyl-1H-pyrrole-3-carboxylic acid | 17.67 g | C(=O)(O)CC=1N(C=CC1C(=O)O)C | C8H9NO4
reactant | para-toluenesulfonic acid | 9.17 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methanol | 250 ml | CO | CH4O
product | 2-Methoxycarbonylmethyl-1-methyl-1H-pyrrole-3-carboxylic acid methyl ester | 15.75 g | COC(=O)C1=C(N(C=C1)C)CC(=O)OC | C10H13NO4
